US06242443B1
3-Anilino-7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 6-chloro-2,3-dihydro-3-oxo-1,2,4-benzothiadiazine 1,1-dioxide (3.0 g, 12.9 mmol) and aniline (4.8 g, 52.0 mmol) by a method analogous to the method described in example 37, except that triethylamine hydrochloride (7.1 g, 52.0 mmol) was used instead of N,N-dimethylcyclohexylamine. Yield 1.68 g (44%) of pure product; m.p. (DSC) >350° C. (ethanol); 1H-NMR (DMSO-d6): δ 7.1-7.8 (m, 8H, ArH), 9.5 (br.s, 1H, NH), 11.05 (br.s, 1H, NH,; MS: m/e 307/309 (M+); (C13H10N3Cl1O2S1) calc. C, 50.74; H, 3.28; N, 13.65; found C, 50.31; H, 3.24; N, 13.59.

reactant | 6-chloro-2,3-dihydro-3-oxo-1,2,4-benzothiadiazine 1,1-dioxide | 12.9 mmol, 3.0 g | ClC=1C=CC2=C(NC(NS2(=O)=O)=O)C1 | C7H5ClN2O3S
reactant | aniline | 52.0 mmol, 4.8 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine hydrochloride | 52.0 mmol, 7.1 g | Cl.C(C)N(CC)CC
solvent | ethanol | C(C)O | C2H6O
product | 3-Anilino-7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | N(C1=CC=CC=C1)C1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C13H10ClN3O2S
